US06320068B1
Methyl 2-diphenylphosphinobenzoate
Diphenylphosphine (0.94 mL, 5.40 mmol, 1 eq) was added to a stirred solution of methyl 2-trifluoromethanesulfonyloxybenzoate (1.531 g, 5.39 mmol, 1 eq), triethylamine (0.85 mL, 6.1 mmol, 1.1 eq) and palladium acetate (0.005 g, 0.02 mmol, 0.004 eq) in degassed MeCN (10 mL) instantly giving a red coloration. The solution was heated at reflux under nitrogen for 17 hours. The blood-red solution was allowed to cool and an aliquot taken for NMR analysis.

reactant | Diphenylphosphine | 5.40 mmol, 0.94 mL, 1 eq | C1(=CC=CC=C1)PC1=CC=CC=C1 | C12H11P
reactant | methyl 2-trifluoromethanesulfonyloxybenzoate | 5.39 mmol, 1.531 g, 1 eq | FC(S(=O)(=O)OC1=C(C(=O)OC)C=CC=C1)(F)F | C9H7F3O5S
reactant | triethylamine | 6.1 mmol, 0.85 mL, 1.1 eq | C(C)N(CC)CC | C6H15N
solvent | MeCN | 10 mL | CC#N | C2H3N
catalyst | palladium acetate | 0.02 mmol, 0.005 g, 0.004 eq | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Methyl 2-diphenylphosphinobenzoate | C1(=CC=CC=C1)P(C1=C(C(=O)OC)C=CC=C1)C1=CC=CC=C1 | C20H17O2P
